US08426411B2
To (1S,2R,4S)-2-ethyl-4-hydroxy-N-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)cyclopentanecarbohydrazide (0.885 g, 1.99 mmol) in THF (15 mL) was added 4-hydroxybenzonitrile (0.357 g, 2.99 mmol), triphenylphosphine (0.998 g, 2.99 mmol, polymer bound, 3 mmol/g), and TEA (1.3 mL, 9 mmol). DEAD (0.47 mL, 2.99 mmol) was added dropwise. The reaction mixture was stirred for about 1 h then additional triphenylphosphine (0.50 g, 1.5 mmol, polymer bound, 3 mmol/g) and DEAD (0.2 mL, 1.3 mmol) were added and the reaction mixture was stirred at ambient temperature for about 16 h. The solid was removed by filtration while washing with DCM (5×5 mL) then MeOH (4×5 mL). The filtrate was concd under reduced pressure and the residue was purified using silica gel chromatography (40 g) eluting with a gradient of 0-40% EtOAc in DCM to give (1S,2R,4R)-4-(4-cyanophenoxy)-2-ethyl-N′-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)cyclopentanecarbohydrazide (0.958 g, 88%) as a yellow foam: LC/MS (Table 1, Method b) Rt=2.56 min; MS m/z: 545 (M+H)+.

reactant | (1S,2R,4S)-2-ethyl-4-hydroxy-N-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)cyclopentanecarbohydrazide | 1.99 mmol, 0.885 g | C(C)[C@H]1[C@H](C[C@H](C1)O)C(=O)N(N)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C21H25N5O4S
reactant | 4-hydroxybenzonitrile | 2.99 mmol, 0.357 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | triphenylphosphine | 2.99 mmol, 0.998 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 2.99 mmol, 0.47 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.5 mmol, 0.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.3 mmol, 0.2 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (1S,2R,4R)-4-(4-cyanophenoxy)-2-ethyl-N′-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)cyclopentanecarbohydrazide | 0.958 g, 88% | C(#N)C1=CC=C(O[C@@H]2C[C@H]([C@H](C2)C(=O)NNC=2N=C3C(=NC2)N(C=C3)S(=O)(=O)C3=CC=C(C)C=C3)CC)C=C1 | C28H28N6O4S
